US04977273
To a solution of methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionate (1.0 g, 4.2 mmol) in DMF (10 ml), n-butanolamine (500 mg, 5.6 mmol) was added and stirred for 6 hours at a room temperature. Then, the reaction solution was concentrated and purified by silica gel column chromatography to obtain 3-(2'-nitroimidazolyl)-2,2-difluoropropionic acid hydroxybutylamide (450 mg).

reactant | methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionate | 4.2 mmol, 1.0 g | [N+](=O)([O-])C=1NC=C(N1)CC(C(=O)OC)(F)F | C7H7F2N3O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(2'-nitroimidazolyl)-2,2-difluoropropionic acid hydroxybutylamide | 450 mg | OCCCCNC(C(CC=1N=C(NC1)[N+](=O)[O-])(F)F)=O | C10H14F2N4O4
